US08735417B2
A mixture of (3-nitrophenyl)boronic acid (188 mg, 1.13 mmol), ethyl 1-(5-bromo-1,3-thiazol-2-yl)piperidine-4-carboxylate (300 mg, 0.94 mmol), palladium(II) acetate (10.5 mg, 0.047 mmol), and tris(2-methylphenyl)phosphane (286 mg, 0.94 mmol) in 1,2-dimethoxyethane (1.9 mL) and 2M aqueous sodium carbonate (0.7 mL, 1.4 mmol) was heated to 100° C. in the microwave for 30 minutes. After cooling to room temperature, the mixture was diluted with ethyl acetate (100 mL) and washed with 1:1 water:brine (50 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. Purification by CombiFlash (0-40% ethyl acetate/hexanes) provided 79 mg (0.22 mmol, 23% yield) of ethyl 1-[5-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate as a yellow solid.

reactant | (3-nitrophenyl)boronic acid | 1.13 mmol, 188 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | ethyl 1-(5-bromo-1,3-thiazol-2-yl)piperidine-4-carboxylate | 0.94 mmol, 300 mg | BrC1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C11H15BrN2O2S
reactant | tris(2-methylphenyl)phosphane | 0.94 mmol, 286 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | sodium carbonate | 1.4 mmol, 2M, 0.7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 1.9 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.047 mmol, 10.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 1-[5-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.22 mmol, 79 mg, 23% yield | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C17H19N3O4S
